US07528143B2
N-(3-Bromo-2-methyl-phenyl)-acetamide (Intermediate 76)
A solution of 3-bromo-2-methyl-phenylamine (4.1 g, 21.9 mmol) was treated with DIEA (8.4 mL, 48 mmol) and chilled to zero degrees. Acetyl chloride (1.7 mL, 24.1 mmol) was added dropwise via syringe. Reaction was allowed to return to room temperature and stir for 1 hour. Reaction was then poured onto water and washed once. Organic phase was evaporated to off-white solids. Trituration with hexanes afforded title compound as white solids (4.4 g, 89%).

reactant | 3-bromo-2-methyl-phenylamine | 21.9 mmol, 4.1 g | BrC=1C(=C(C=CC1)N)C | C7H8BrN
reactant | DIEA | 48 mmol, 8.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Acetyl chloride | 24.1 mmol, 1.7 mL | C(C)(=O)Cl | C2H3ClO
product | N-(3-Bromo-2-methyl-phenyl)-acetamide | 4.4 g, 89% | BrC=1C(=C(C=CC1)NC(C)=O)C | C9H10BrNO
